US05948788
A mixture of morphine (23.63 g, 83 mmol), NaHCO3 (28.2 g, 336 mmol), Ac2O (8.69 g, 85 mmol) in toluene (500 ml) and CH3CN (900 ml) was heated at reflux for 21 hrs. The reaction mixture was evaporated to dryness in vacuo. To the residue was added water (80 ml) and extracted with chloroform (500 ml). The extracts were dried, combined and evaporated to dryness in vacuo to obtain a residue, which was chromatographed on silica gel (column: d=6 cm, l=8 cm, packed with 141 g of silica gel; solvent system: 5-10% MeOH in CH2Cl2) to yield 3-acetylmorphine (27 g,100% yield). IR (KBr)(ν, cm-1): 3500 (m, sharp, --OH), 1750 (s, sharp, AcO); NMR (δH)(CDCl3): 6.73 (1, d, J, 8.1, 2-H), 6.57 (1, d, J, 8.1, 1-H), 5.74 (1, dm, J, 10.1, 7-H), 5.25 (1, dm, J, 9.9, 8-H), 4.91 (1, d, J, 6.9, 5-H), 4.25-4.10 (1, m, 6-H), 3.50-3.35 (1, m, 9-H), 3.05 (1, d, J, 19.1, 10-Hβ), 2.8-2.7 (1, m, 14-H), 2.85-2.60 (1, m, 16-He), 2.50-2.25 (1, m, 16-Ha), 2.45 (3, s, NCH3), 2.5-2.2 (1, m, 10-Hα), 2.28 (3, s, AcO), 2.06 (1, td, J, 12.1 & 5.0, 15-Ha), 2.0-1.85 (1, m, 15-He).

reactant | morphine | 83 mmol, 23.63 g | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | NaHCO3 | 336 mmol, 28.2 g | C(=O)(O)[O-].[Na+]
reactant | Ac2O | 85 mmol, 8.69 g | CC(=O)OC(=O)C | C4H6O3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH3CN | 900 ml | CC#N | C2H3N
product | 3-acetylmorphine | 27 g, 100% yield | C(C)(=O)C1(CC=C2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2=C1O5)CCN3C)O)O | C19H23NO4
